US08735378B2
To a solution of 2-acetoxybenzoic acid (2.0 g, 11.1 mmol) and triethylamine (1.8 mL, 11.1 mmol) in CH2Cl2 (40 mL) at 0° C. was slowly added CICO2Et (1.1 mL, 167 mmol). The reaction mixture was stirred (0° C., 2 h) and filtered. The filtrate was added to a solution of benzyl 3-hydroxypropylcarbamate (2.1 g, 10.0 mmol) and triethylamine (15 mL) in CH2Cl2 (40 mL). The reaction mixture was stirred (RT, 4 h) and quenched with H2O (50 mL). The organic layer was washed with 1 M HCl, saturated Na2CO3 (30 mL) and H2O (50 mL). The organic solution was dried over MgSO4 and concentrated under reduced pressure. The residue was purified by silica chromatography, (PE-EtOAc, 5:1) to afford 3-(benzyloxycarbonylamino)propyl 2-acetoxybenzoate (2.0 g, 54%) as a colorless oil. Mass calculated for C20H21NO64=371.38. found: [M+H]+=372.3.

reactant | 2-acetoxybenzoic acid | 11.1 mmol, 2.0 g | C(C)(=O)OC1=C(C(=O)O)C=CC=C1 | C9H8O4
reactant | triethylamine | 11.1 mmol, 1.8 mL | C(C)N(CC)CC | C6H15N
reactant | benzyl 3-hydroxypropylcarbamate | 10.0 mmol, 2.1 g | OCCCNC(OCC1=CC=CC=C1)=O | C11H15NO3
reactant | triethylamine | 15 mL | C(C)N(CC)CC | C6H15N
solvent | CH2Cl2 | 40 mL | C(Cl)Cl | CH2Cl2
solvent | CH2Cl2 | 40 mL | C(Cl)Cl | CH2Cl2
product | 3-(benzyloxycarbonylamino)propyl 2-acetoxybenzoate | 2.0 g, 54% | C(C)(=O)OC1=C(C(=O)OCCCNC(=O)OCC2=CC=CC=C2)C=CC=C1 | C20H21NO6
